US07851473B2
N-(3-Hydroxyphenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide
To a solution of 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)phenyl acetate (635 mg, 1.50 mmol) in methanol/tetrahydrofuran (2:1) (60 ml) was added an aqueous 1 N sodium hydroxide solution (1.5 ml), and the mixture was stirred at 70° C. for 3 hours. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and recrystallized from a mixed solvent of hexane and tetrahydrofuran to give 360 mg (62.9%) of the desired product as a solid.

reactant | 3-({[4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazin-1-yl]carbonyl}amino)phenyl acetate | 1.50 mmol, 635 mg | C(C)(=O)OC1=CC(=CC=C1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C21H21N5O3S
reactant | sodium hydroxide | 1 N, 1.5 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | methanol tetrahydrofuran | 60 ml | CO.O1CCCC1
product | N-(3-Hydroxyphenyl)-4-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine-1-carboxamide | 360 mg, 62.9% | OC=1C=C(C=CC1)NC(=O)N1CCN(CC1)C1=NC(=NS1)C1=CC=CC=C1 | C19H19N5O2S
